US08349824B2
To an nitrogene purged suspension of 2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-amine hydrochloride (80 mg, 0.313 mmol) and N-ethyldiisoppropylamine (120 ul, 0.688 mmole) in dioxane (3 ml) is added trimethyl aluminium (2 M solution in toluene, 0.47 ml, 0.94 mmol). The resulting solution is stirred for ½ hour at room temperature. Then ethyl 4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxylate (75 mg, 0.313 mmol) in dioxane (0.7 ml) is added and the mixture is heated to reflux in a sealed vessel and stirred for 19 hours. Purification of the reaction mixture by chromatography on a 12 g RediSep silica cartridge (eluent dichloromethane+4% methanol) affords 4-(azetidine-1-carbonyl)-1-methyl-N-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide (106 mg, 82.5%) as an off-white solid. mp.: 232-4° C. MS: m/z=411.3 (M+H+).

reactant | 2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-amine hydrochloride | 0.313 mmol, 80 mg | Cl.O1CCN(CC1)C1=NN2C(C=C(C=C2)N)=N1
reactant | trimethyl aluminium | 0.94 mmol, 2 M, 0.47 ml | C[Al](C)C
reactant | ethyl 4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxylate | 0.313 mmol, 75 mg | N1(CCC1)C(=O)C=1C=NN(C1C(=O)OCC)C | C11H15N3O3
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.7 ml | O1CCOCC1 | C4H8O2
product | 4-(azetidine-1-carbonyl)-1-methyl-N-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide | 106 mg, 82.5% | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)N2CCOCC2)C | C19H22N8O3
